US07067517B2
Methyl-phenyl-carbamic acid 4-[2-(4-chloro-phenyl)-ethylcarbamoyl]-phenyl ester
The title product was prepared from 2-(4-chloro-phenyl)-ethylamine and 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester. The crude product was subjected to preparative HPLC (method C) (39%, off-white crystals). HPLC-MS m/z=409.2 (M+1), Rt: 4.27 min.

reactant | 2-(4-chloro-phenyl)-ethylamine | ClC1=CC=C(C=C1)CCN | C8H10ClN
reactant | 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)=O | C19H16N2O6
product | Methyl-phenyl-carbamic acid 4-[2-(4-chloro-phenyl)-ethylcarbamoyl]-phenyl ester | ClC1=CC=C(C=C1)CCNC(=O)C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C23H21ClN2O3
